US06855722B2
c) Methyl 3-[5-(3-{[benzylamino]carbonylamino}propoxy)indolyl]propanoate
To the solution of methyl 3-[5-(aminopropoxy)indolyl]propanoate (140 mg, 0.5 mmol), as prepared in the preceding step, in acetonitrile (10 mL) was added benzyl isocynate (135 mg, 1.0 mmol), and the mixture was stirred at ambient temperature overnight. After evaporating the solvent in vacuo, the residue was purified by flash column chromatography on silica gel (methylene chloride to 5% ethyl acetate in methylene chloride) to give the title compound as a white solid (85 mg, 42%). 1H-NMR (400 MHz, CDCl3) δ 7.28 (m, 5H), 7.20 (d, J=8.9 Hz, 1H), 7.10 (d, J=2.8 Hz, 1H), 7.05 (d, J=2.5 Hz, 1H), 6.81 (dd, J=8.8, 2.5 Hz, 1H), 6.38 (d, J=2.9 Hz, 1H), 4.66 (br s, 2H), 4.41 (t, J=6.8 Hz, 2H), 4.35 (d, J=5.7 Hz, 2H), 4.06 (t, J=5.8 Hz, 2H), 3.66 (s, 3H), 3.43 (q, J=6.2 Hz, 2H), 2.81 (t, J=6.8 Hz, 2H), 1.99 (t, J=6.1, 2H).

reactant | methyl 3-[5-(aminopropoxy)indolyl]propanoate | 0.5 mmol, 140 mg | NCCCOC=1C=C2C=C(NC2=CC1)CCC(=O)OC | C15H20N2O3
reactant | benzyl isocynate | 1.0 mmol, 135 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Methyl 3-[5-(3-{[benzylamino]carbonylamino}propoxy)indolyl]propanoate | 85 mg, 42% | C(C1=CC=CC=C1)NC(=O)NCCCOC=1C=C2C=C(NC2=CC1)CCC(=O)OC | C23H27N3O4
